US05844102
Methyl 2,3,4-tri-O-benzyl-6-deoxy-β-D-gluco-heptodialdo-1.5-pyranoside.
A solution of oxalyl chloride (110 μl), 1.3 mmol) in dry dichloromethane (1.55 ml) was stirred under nitrogen atmosphere and cooled to -78° C. Dimethyl sulfoxide (0.178 ml, 2.5 mmol) in dichloromethane (0.67 ml) was added dropwise over 10 min. After stirring for 5 min methyl 2,3,4-tri-O-benzyl-6-deoxy-β-D-gluco-hepto-1,5-pyranoside (0.40 g, 0.8 mmol) dissolved in dichloromethane (0.67 ml) was added dropwise over 5 min. After stirring for another 15 min at -78° C., triethylamine (0.88 ml, 0.8 mmol) was added. The reaction mixture was allowed to warm to room temperature (30 min). Dichloromethane (1 ml) and water (4 ml) was added. The organic layer was extracted with water (4 ml) and brine (4 ml), dried (MgSO4), filtered and concentrated. The residue was co-concentrated with toluene (2×3 ml) to give a colorless syrup in 93% (0.37 g) yield, [α]D20 =+18.07° (c 1.4, CHCl3). 13C-NMR (CDCl3):δ200 (C-7), 97.8 (C-1), 81.6, 80.7 and 79.9 (C-2, C-3, C-4); 75.5, 74.8 and 73.2 (3×CH2OPh); 65.4 (C-5), 55.3 (OCH3); 45.6 (C-6).

reactant | oxalyl chloride | 110 μl | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | Dimethyl sulfoxide | 2.5 mmol, 0.178 ml | CS(=O)C | C2H6OS
reactant | methyl 2,3,4-tri-O-benzyl-6-deoxy-β-D-gluco-hepto-1,5-pyranoside | 0.8 mmol, 0.40 g | C(C1=CC=CC=C1)O[C@H]1[C@H](OC)O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)CCO | C29H34O6
reactant | triethylamine | 0.8 mmol, 0.88 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 1.55 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 0.67 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 0.67 ml | ClCCl | CH2Cl2
solvent | Dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | water | 4 ml | O | H2O
product | Methyl 2,3,4-tri-O-benzyl-6-deoxy-β-D-gluco-heptodialdo-1.5-pyranoside | C(C1=CC=CC=C1)O[C@H]1[C@H](OC)O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)CC=O | C29H32O6
